US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 2-amino-5-ethyl-1,3,4-thiadiazole (43.9 mg) were used to obtain (2S,4S)-1-[[N-[4-[N-(5-ethyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (34.8 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2-amino-5-ethyl-1,3,4-thiadiazole | 43.9 mg | NC=1SC(=NN1)CC | C4H7N3S
product | (2S,4S)-1-[[N-[4-[N-(5-ethyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 34.8 mg | C(C)C1=NN=C(S1)NC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C20H27FN6O2S
